US07728025B2
(Step 4) Production of N-(4-(3-((t-butyl(dimethyl)silyl)oxy)pyrrolidin-2-yl)-3-fluorophenyl)pyridine-2-carboxamide
155 mg of triethylamine and 130 mg of methanesulfonyl chloride were added in order to a chloroform (8 ml) solution of 165 mg of N-(4-(2-((t-butyl(dimethyl)silyl)oxy)-1,4-dihydroxybutyl)-3-fluorophenyl)pyridine-2-carboxamide, with cooling with ice, and the reaction liquid was stirred at room temperature for 30 minutes. The reaction liquid was diluted with chloroform, washed with aqueous saturated sodium bicarbonate, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and 25 mg of sodium azide was added to a dimethylformamide (5 ml) solution of the resulting residue, and the reaction liquid was stirred at 40° C. for 2 hours. The reaction liquid was cooled, water was added to it, extracted with ethyl acetate, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and 50 mg of sodium borohydride and 5 mg of copper sulfate pentahydrate were added in order to a methanol (10 ml) solution of the resulting residue, and the reaction liquid was stirred at 40° C. for 2 hours. The reaction liquid was cooled, aqueous saturated sodium bicarbonate was added to it, extracted with chloroform, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=50/1) to obtain the entitled compound as a colorless oily substance.

reactant | triethylamine | 155 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 130 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(4-(2-((t-butyl(dimethyl)silyl)oxy)-1,4-dihydroxybutyl)-3-fluorophenyl)pyridine-2-carboxamide | 165 mg | [Si](C)(C)(C(C)(C)C)OC(C(O)C1=C(C=C(C=C1)NC(=O)C1=NC=CC=C1)F)CCO | C22H31FN2O4Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | N-(4-(3-((t-butyl(dimethyl)silyl)oxy)pyrrolidin-2-yl)-3-fluorophenyl)pyridine-2-carboxamide | [Si](C)(C)(C(C)(C)C)OC1C(NCC1)C1=C(C=C(C=C1)NC(=O)C1=NC=CC=C1)F | C22H30FN3O2Si
